US07071182B2
3-[4-(benzyloxy)phenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]propanamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and 3-(4-benzyloxy-phenyl)-propionic acid were processed to provide the title compound. 1H NMR (500 MHz, DMSO-D6) δ ppm 1.83 (m, 2 H), 2.00 (m, 2 H), 2.66 (t, J=7.64 Hz, 2 H), 2.88 (t, J=7.49 Hz, 2 H), 3.05 (dd, J=10.45, 7.33 Hz, 2 H), 3.53 (m, 2 H), 3.69 (m, 2 H), 4.67 (t, J=6.24 Hz, 2 H), 5.06 (s, 2 H), 6.93 (m, 2 H), 7.07 (m, 1 H), 7.18 (m, 2 H), 7.32 (m, 1 H), 7.40 (m, 4 H), 7.70 (m, 1 H), 8.08 (m, 1 H), 8.28 (s, 1 H), 10.13 (s, 1 H); MS (DCI/NH3) m/z 469 (M+H)+;

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | 3-(4-benzyloxy-phenyl)-propionic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(=O)O | C16H16O3
product | 3-[4-(benzyloxy)phenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]propanamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C29H32N4O2
